* File: Full_Adder.pex.netlist.pex
* Created: Mon Nov  4 11:01:04 2019
* Program "Calibre xRC"
* Version "v2013.4_26.18"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FULL_ADDER_X_IX1.N$9 4 8 14 16
c0 41 0 0.291407f
c1 39 0 0.07406f
c2 37 0 0.021714f
c3 36 0 0.25719f
c4 34 0 0.127492f
c5 26 0 0.206452f
c6 24 0 0.03192f
c7 23 0 0.038514f
c8 22 0 0.138982f
c9 21 0 0.120003f
c10 20 0 0.03192f
c11 17 0 0.14648f
c12 13 0 0.0455407f
c13 12 0 0.209516f
c14 8 0 0.376694f
c15 4 0 0.380852f
r16 39 41 0.0451795
r17 32 37 0.0338756
r18 32 41 0.605714
r19 29 37 0.00880368
r20 29 36 0.533333
r21 24 36 0.0451795
r22 24 26 0.12
r23 22 37 0.0338756
r24 22 23 0.287619
r25 21 23 0.0446983
r26 20 34 0.0451795
r27 20 21 0.253333
r28 17 43 0.147922
r29 17 48 8.81074
r30 17 46 8.81074
r31 17 39 11.07
r32 17 34 7.805
r33 17 26 5.17667
r34 16 17 1.29176
r35 14 43 1.67935
r36 12 13 11.2903
r37 12 48 65
r38 8 46 70
r39 4 13 57.5
.ends

.subckt PM_FULL_ADDER_X_IX3.N$9 4 8 14 16
c0 41 0 0.296171f
c1 39 0 0.07776f
c2 37 0 0.022344f
c3 36 0 0.2553f
c4 34 0 0.127492f
c5 26 0 0.206452f
c6 24 0 0.03192f
c7 23 0 0.03801f
c8 22 0 0.14254f
c9 21 0 0.121263f
c10 20 0 0.03192f
c11 17 0 0.146738f
c12 13 0 0.0455407f
c13 12 0 0.212436f
c14 8 0 0.377074f
c15 4 0 0.380852f
r16 39 41 0.0451795
r17 32 37 0.0338756
r18 32 41 0.605714
r19 29 37 0.00880368
r20 29 36 0.533333
r21 24 36 0.0451795
r22 24 26 0.12
r23 22 37 0.0338756
r24 22 23 0.287619
r25 21 23 0.0446983
r26 20 34 0.0451795
r27 20 21 0.253333
r28 17 43 0.147922
r29 17 48 8.81074
r30 17 46 8.81074
r31 17 39 11.07
r32 17 34 7.805
r33 17 26 5.17667
r34 16 17 1.29176
r35 14 43 1.67935
r36 12 13 11.2903
r37 12 48 65
r38 8 46 70
r39 4 13 57.5
.ends

.subckt PM_FULL_ADDER_VSS 1 2 11 75 76 161 162 163 232
c0 243 0 0.064206f
c1 241 0 0.07784f
c2 239 0 0.02912f
c3 238 0 0.042f
c4 237 0 0.064206f
c5 236 0 0.0777f
c6 235 0 0.064206f
c7 234 0 0.0777f
c8 227 0 0.124644f
c9 221 0 0.50669f
c10 216 0 0.127492f
c11 214 0 0.02912f
c12 209 0 0.38594f
c13 206 0 0.127492f
c14 204 0 0.02912f
c15 201 0 0.35374f
c16 199 0 0.45034f
c17 197 0 0.34569f
c18 195 0 0.45034f
c19 124 0 0.064206f
c20 123 0 0.02912f
c21 122 0 0.042f
c22 121 0 0.064206f
c23 120 0 0.02912f
c24 119 0 0.42782f
c25 113 0 0.127492f
c26 111 0 0.02912f
c27 110 0 0.085164f
c28 100 0 0.127492f
c29 98 0 0.02912f
c30 97 0 0.08634f
c31 50 0 0.064206f
c32 49 0 0.02912f
c33 48 0 0.042f
c34 47 0 0.064206f
c35 46 0 0.02912f
c36 45 0 0.42782f
c37 39 0 0.127492f
c38 37 0 0.02912f
c39 36 0 0.085164f
c40 26 0 0.127492f
c41 24 0 0.02912f
c42 23 0 0.08634f
r43 241 243 0.0414583
r44 239 243 0.114286
r45 230 238 0.0149881
r46 227 239 0.0414583
r47 226 238 0.0313149
r48 226 227 0.19
r49 222 236 0.0132241
r50 222 224 0.236
r51 221 238 0.0149881
r52 221 224 0.016
r53 219 236 0.0346762
r54 219 237 0.114286
r55 214 237 0.0414583
r56 214 216 0.12
r57 210 234 0.0132241
r58 210 212 0.152
r59 209 236 0.0132241
r60 209 212 0.04
r61 204 235 0.0414583
r62 204 206 0.12
r63 202 234 0.0346762
r64 202 235 0.114286
r65 201 234 0.0132241
r66 198 232 0.142286
r67 197 230 0.172
r68 196 201 0.176
r69 174 264 5.95556
r70 168 251 1.79955
r71 166 168 1.79955
r72 162 168 1.8021
r73 123 124 0.114286
r74 122 198 0.0149881
r75 122 197 0.0149881
r76 120 121 0.114286
r77 119 199 0.0149881
r78 111 124 0.0414583
r79 111 113 0.12
r80 110 123 0.0414583
r81 109 122 0.0313149
r82 109 110 0.13
r83 107 199 0.056
r84 107 232 0.0257143
r85 98 121 0.0414583
r86 98 100 0.12
r87 97 120 0.0414583
r88 96 119 0.0313149
r89 96 97 0.13
r90 49 50 0.114286
r91 48 195 0.0149881
r92 48 196 0.0149881
r93 46 47 0.114286
r94 45 194 0.0149881
r95 37 50 0.0414583
r96 37 39 0.12
r97 36 49 0.0414583
r98 35 48 0.0313149
r99 35 36 0.13
r100 33 195 0.168
r101 33 194 0.056
r102 24 47 0.0414583
r103 24 26 0.12
r104 23 46 0.0414583
r105 22 45 0.0313149
r106 22 23 0.13
r107 11 264 1.4216
r108 11 166 0.295844
r109 11 247 0.295844
r110 11 174 1.96261
r111 11 163 1.79438
r112 11 251 2.75488
r113 11 247 2.36382
r114 11 161 1.57861
r115 11 241 15.61
r116 11 224 5.17667
r117 11 216 7.805
r118 11 212 1.94125
r119 11 206 7.805
r120 11 130 0.295844
r121 11 127 0.295844
r122 11 130 2.36874
r123 11 76 1.57369
r124 11 127 2.36874
r125 11 75 1.57369
r126 11 113 7.805
r127 11 107 1.72556
r128 11 100 7.805
r129 11 56 0.295844
r130 11 53 0.295844
r131 11 56 2.36874
r132 11 53 2.36874
r133 11 39 7.805
r134 11 33 1.72556
r135 11 26 7.805
r136 2 11 1.57369
r137 1 11 1.57369
.ends

.subckt PM_FULL_ADDER_X_IX11.N$13 4 9 15 17
c0 49 0 0.548724f
c1 44 0 0.056f
c2 42 0 0.037648f
c3 41 0 0.03192f
c4 39 0 0.127492f
c5 37 0 0.122723f
c6 35 0 0.408383f
c7 33 0 0.03801f
c8 32 0 0.234327f
c9 31 0 0.03801f
c10 30 0 0.232934f
c11 27 0 0.032218f
c12 23 0 0.135952f
c13 21 0 0.03192f
c14 18 0 0.1365f
c15 13 0 0.06384f
c16 9 0 0.478892f
c17 2 0 0.165392f
r18 39 41 0.0451795
r19 36 44 0.0451795
r20 36 37 0.270476
r21 35 44 0.0451795
r22 34 35 0.887619
r23 32 37 0.0446983
r24 32 33 0.413333
r25 30 34 0.0446983
r26 30 31 0.413333
r27 28 33 0.0446983
r28 28 42 0.08
r29 27 31 0.0446983
r30 27 41 0.0685714
r31 21 42 0.0451795
r32 21 23 0.12
r33 18 51 8.71929
r34 18 49 8.71929
r35 18 44 11.07
r36 18 39 7.805
r37 18 23 7.765
r38 17 18 1.29176
r39 15 18 1.82727
r40 11 13 10
r41 9 51 103.214
r42 5 13 0.587288
r43 5 49 171.786
r44 2 11 0.587288
r45 2 4 20
.ends

.subckt PM_FULL_ADDER_VDD 1 11 12 13 104 105 106 214 215 216 247
c0 291 0 0.042f
c1 290 0 0.064206f
c2 289 0 0.02912f
c3 287 0 0.127492f
c4 285 0 0.0777f
c5 284 0 0.02912f
c6 283 0 0.0777f
c7 282 0 0.02912f
c8 276 0 0.164124f
c9 275 0 0.02912f
c10 268 0 0.47449f
c11 267 0 0.064206f
c12 263 0 0.206452f
c13 256 0 0.45034f
c14 255 0 0.064206f
c15 251 0 0.206452f
c16 248 0 0.34914f
c17 243 0 0.5426f
c18 242 0 0.084568f
c19 240 0 0.37329f
c20 238 0 0.27684f
c21 237 0 0.26576f
c22 236 0 0.084568f
c23 160 0 0.020825f
c24 158 0 0.042f
c25 157 0 0.0577485f
c26 154 0 0.051291f
c27 153 0 0.02912f
c28 152 0 0.28752f
c29 146 0 0.226192f
c30 141 0 0.275984f
c31 140 0 0.02912f
c32 137 0 0.02912f
c33 132 0 0.364372f
c34 126 0 0.328898f
c35 124 0 0.275984f
c36 67 0 0.020825f
c37 65 0 0.042f
c38 64 0 0.0577485f
c39 61 0 0.051291f
c40 60 0 0.02912f
c41 59 0 0.28752f
c42 53 0 0.226192f
c43 48 0 0.275984f
c44 47 0 0.02912f
c45 44 0 0.02912f
c46 39 0 0.364372f
c47 33 0 0.328898f
c48 31 0 0.275984f
r49 289 290 0.114286
r50 287 289 0.0414583
r51 279 291 0.0149881
r52 276 291 0.0313149
r53 275 290 0.0414583
r54 275 276 0.25
r55 269 285 0.0132241
r56 269 271 0.22
r57 268 291 0.0149881
r58 268 271 0.016
r59 267 285 0.0346762
r60 267 284 0.114286
r61 261 284 0.0414583
r62 261 263 0.12
r63 257 283 0.0132241
r64 257 259 0.168
r65 256 285 0.0132241
r66 256 259 0.056
r67 255 283 0.0346762
r68 255 282 0.114286
r69 249 282 0.0414583
r70 249 251 0.12
r71 248 283 0.0132241
r72 243 281 0.016
r73 242 281 0.0403178
r74 240 279 0.185714
r75 239 248 0.173714
r76 238 247 0.128571
r77 237 244 0.016
r78 236 244 0.0403178
r79 216 222 4.30725
r80 215 219 4.13139
r81 162 186 0.961707
r82 159 160 0.0114583
r83 158 241 0.0149881
r84 158 240 0.0149881
r85 157 160 0.102857
r86 155 281 0.00971429
r87 155 241 0.154286
r88 153 154 0.0914286
r89 146 159 0.15
r90 141 158 0.0313149
r91 140 157 0.0414583
r92 140 141 0.42
r93 137 154 0.0414583
r94 137 242 0.13
r95 130 153 0.0414583
r96 130 132 0.24
r97 129 152 0.0149881
r98 129 243 0.1
r99 124 152 0.0313149
r100 124 126 0.42
r101 111 162 2.86824
r102 111 112 3.96435
r103 107 114 3.9141
r104 105 112 0.161834
r105 104 107 5.23458
r106 69 93 0.961707
r107 66 67 0.0114583
r108 65 238 0.0149881
r109 65 239 0.0149881
r110 64 67 0.102857
r111 62 247 0.0257143
r112 62 244 0.00971429
r113 60 61 0.0914286
r114 53 66 0.15
r115 48 65 0.0313149
r116 47 64 0.0414583
r117 47 48 0.42
r118 44 61 0.0414583
r119 44 236 0.13
r120 37 60 0.0414583
r121 37 39 0.24
r122 36 59 0.0149881
r123 36 237 0.1
r124 31 59 0.0313149
r125 31 33 0.42
r126 18 69 2.86824
r127 18 19 3.96435
r128 14 21 3.9141
r129 12 19 0.161834
r130 11 14 5.23458
r131 1 313 5.69333
r132 1 309 0.665455
r133 1 313 3.59088
r134 1 222 0.323221
r135 1 309 3.00981
r136 1 219 0.836571
r137 1 214 1.45993
r138 1 287 7.765
r139 1 271 5.20333
r140 1 263 5.17667
r141 1 259 1.95125
r142 1 251 5.17667
r143 1 180 3.67162
r144 1 114 3.64838
r145 1 180 3.01716
r146 1 106 1.18104
r147 1 186 1.22
r148 1 155 1.561
r149 1 146 5.17667
r150 1 132 3.106
r151 1 126 2.58833
r152 1 87 3.67162
r153 1 21 3.64838
r154 1 87 3.01716
r155 1 13 1.18104
r156 1 93 1.22
r157 1 62 1.561
r158 1 53 5.17667
r159 1 39 3.106
r160 1 33 2.58833
.ends

.subckt PM_FULL_ADDER_COUT 1 3 53
c0 53 0 0.119354f
c1 46 0 0.057344f
c2 32 0 0.0484848f
c3 26 0 0.048f
c4 25 0 0.917177f
c5 22 0 0.051415f
c6 21 0 0.390048f
c7 18 0 0.112315f
c8 13 0 0.0887375f
c9 12 0 0.287233f
c10 8 0 0.114332f
c11 5 0 0.064f
c12 4 0 0.064f
r13 26 28 0.0554936
r14 25 32 0.0554936
r15 25 26 2.88
r16 24 46 0.0304762
r17 23 24 0.0225225
r18 21 22 0.0651795
r19 18 20 0.0664032
r20 13 23 0.0300826
r21 13 21 0.819048
r22 12 23 0.0889415
r23 11 20 0.012
r24 11 12 0.6
r25 8 22 0.1
r26 5 53 0.68
r27 5 32 0.68
r28 4 46 0.68
r29 4 28 0.68
r30 4 18 15.61
r31 4 8 7.765
r32 3 4 1.82525
r33 1 4 3.67543
.ends

.subckt PM_FULL_ADDER_NX98 4 10 16 18
c0 58 0 0.112f
c1 50 0 0.048f
c2 44 0 0.048336f
c3 43 0 0.160544f
c4 42 0 0.231318f
c5 41 0 0.01616f
c6 37 0 0.08064f
c7 35 0 0.105875f
c8 34 0 0.249223f
c9 31 0 0.127492f
c10 29 0 0.03192f
c11 26 0 0.0625492f
c12 22 0 0.07329f
c13 21 0 0.057728f
c14 20 0 0.064f
c15 19 0 0.23242f
c16 14 0 0.06384f
c17 10 0 0.736914f
c18 7 0 0.210664f
c19 4 0 0.452336f
r20 44 46 0.0554936
r21 43 50 0.0554936
r22 43 44 0.506
r23 37 40 0.0451795
r24 34 35 0.0666667
r25 34 40 0.52
r26 29 42 0.0451795
r27 29 31 0.12
r28 27 41 0.0268652
r29 27 42 0.487619
r30 26 41 0.0268652
r31 26 35 0.131429
r32 22 76 0.059969
r33 21 41 0.0153295
r34 21 22 0.165
r35 20 76 0.68
r36 20 54 0.16161
r37 20 50 0.68
r38 20 37 15.61
r39 20 31 7.765
r40 19 58 0.68
r41 19 60 1.2069
r42 19 58 11.07
r43 19 46 0.68
r44 18 54 1.83475
r45 16 20 4.02
r46 12 14 10
r47 8 60 4.10694
r48 8 10 182.5
r49 7 14 0.587288
r50 6 19 8.44828
r51 6 7 65
r52 2 12 0.587288
r53 2 4 77.5
.ends

.subckt PM_FULL_ADDER_B 4 9 17 21 43 46 52
c0 93 0 0.07329f
c1 86 0 0.112f
c2 82 0 0.295924f
c3 76 0 0.048336f
c4 70 0 0.055526f
c5 67 0 0.036f
c6 66 0 0.225684f
c7 65 0 0.048544f
c8 64 0 0.383355f
c9 61 0 0.07329f
c10 58 0 0.09422f
c11 54 0 0.0992f
c12 53 0 0.05302f
c13 50 0 0.057504f
c14 49 0 0.2005f
c15 47 0 0.052208f
c16 44 0 0.261152f
c17 41 0 0.356912f
c18 40 0 0.03192f
c19 39 0 0.079344f
c20 38 0 0.03192f
c21 37 0 0.111264f
c22 36 0 0.439004f
c23 23 0 0.28486f
c24 22 0 0.03388f
c25 21 0 0.830024f
c26 15 0 0.277112f
c27 14 0 0.187242f
c28 12 0 0.03192f
c29 11 0 0.26f
c30 9 0 0.723992f
c31 6 0 0.03192f
c32 5 0 0.207024f
c33 2 0 0.277112f
r34 69 70 0.68
r35 67 73 0.0554936
r36 66 76 0.0554936
r37 66 67 0.71
r38 65 69 0.0551126
r39 64 73 0.0554936
r40 64 65 1.21
r41 58 70 0.0554936
r42 57 58 0.27
r43 53 93 0.059969
r44 53 54 0.155
r45 50 61 0.0603499
r46 50 52 0.0275
r47 49 86 0.68
r48 49 84 8.71929
r49 49 82 8.71929
r50 49 86 11.07
r51 49 76 0.68
r52 47 57 0.0554936
r53 47 61 0.68
r54 44 46 35
r55 41 43 50
r56 39 41 5.58729
r57 39 40 15
r58 37 44 5.58729
r59 37 38 25
r60 36 40 5.58729
r61 36 84 137.5
r62 33 38 5.58729
r63 33 82 92.5
r64 24 54 0.0638185
r65 23 93 0.68
r66 23 73 0.68
r67 23 24 11.07
r68 19 21 127.5
r69 18 23 15.2893
r70 18 21 132.5
r71 15 22 4.23445
r72 15 17 40
r73 14 23 8.67769
r74 13 22 4.23445
r75 13 14 57.5
r76 11 19 5.58729
r77 11 12 70
r78 7 12 5.58729
r79 7 9 165
r80 5 22 1.10046
r81 5 6 65
r82 2 6 5.58729
r83 2 4 40
.ends

.subckt PM_FULL_ADDER_CIN 5 12 18 22 38 45 60
c0 95 0 0.0478832f
c1 94 0 0.142607f
c2 90 0 0.055736f
c3 89 0 0.048484f
c4 85 0 0.04816f
c5 82 0 0.054854f
c6 78 0 0.96489f
c7 77 0 0.048672f
c8 76 0 0.779325f
c9 73 0 0.112745f
c10 68 0 0.07329f
c11 65 0 0.033032f
c12 63 0 0.25626f
c13 58 0 0.095344f
c14 56 0 0.2005f
c15 55 0 0.052208f
c16 53 0 0.080045f
c17 49 0 0.06384f
c18 45 0 0.368714f
c19 40 0 0.582304f
c20 36 0 0.364154f
c21 26 0 0.189212f
c22 22 0 0.400634f
c23 18 0 0.674972f
c24 15 0 0.05552f
c25 14 0 0.274686f
c26 12 0 0.427592f
c27 9 0 0.0396512f
c28 7 0 0.03192f
c29 6 0 0.48344f
c30 5 0 0.594446f
r31 94 105 0.0443038
r32 89 90 0.68
r33 85 87 0.0306513
r34 81 82 0.68
r35 79 85 0.0150725
r36 78 89 0.0554936
r37 78 79 3.034
r38 77 81 0.0554936
r39 76 87 0.0150725
r40 76 77 2.458
r41 64 90 0.0554936
r42 64 65 0.096
r43 62 82 0.0554936
r44 62 63 0.722
r45 58 68 0.059969
r46 58 60 0.135
r47 56 105 0.68
r48 56 97 8.71929
r49 56 95 8.71929
r50 56 94 11.07
r51 56 85 0.68
r52 55 63 0.0554936
r53 55 68 0.68
r54 51 53 15
r55 47 49 10
r56 43 53 0.587288
r57 43 45 67.5
r58 41 51 0.587288
r59 41 95 15
r60 40 49 0.587288
r61 40 97 181.429
r62 36 47 0.587288
r63 36 38 51.0714
r64 26 65 0.0554936
r65 26 73 0.68
r66 26 32 8.71929
r67 26 30 8.71929
r68 26 73 11.07
r69 24 25 11.2676
r70 20 22 77.5
r71 16 18 112.143
r72 15 25 4.92958
r73 14 16 5.58729
r74 14 15 75
r75 10 25 0.658076
r76 10 12 72.1429
r77 9 24 0.658076
r78 9 32 12.5
r79 6 20 5.58729
r80 6 7 140
r81 5 30 107.5
r82 2 7 5.58729
r83 2 5 77.5
.ends

.subckt PM_FULL_ADDER_A 5 12 18 22 41 45 55
c0 98 0 0.26915f
c1 90 0 0.503404f
c2 85 0 0.054854f
c3 84 0 0.048336f
c4 81 0 0.054374f
c5 78 0 0.048608f
c6 77 0 0.578996f
c7 74 0 0.1455f
c8 66 0 0.05362f
c9 64 0 0.0319496f
c10 60 0 0.0736f
c11 57 0 0.22114f
c12 52 0 0.3522f
c13 49 0 0.09576f
c14 45 0 0.464474f
c15 41 0 0.340952f
c16 27 0 0.10004f
c17 26 0 0.19106f
c18 22 0 0.400634f
c19 18 0 0.674972f
c20 15 0 0.05552f
c21 14 0 0.274686f
c22 12 0 0.427592f
c23 9 0 0.039444f
c24 7 0 0.03192f
c25 6 0 0.48344f
c26 5 0 0.594222f
r27 84 85 0.68
r28 80 81 0.68
r29 78 80 0.0554936
r30 77 84 0.0554936
r31 77 78 1.832
r32 74 101 0.107042
r33 65 85 0.0554936
r34 65 66 0.154
r35 64 81 0.0554936
r36 63 64 0.096
r37 58 101 0.018303
r38 57 60 0.0466492
r39 57 58 0.49
r40 55 98 0.605
r41 52 96 8.71929
r42 52 90 8.71929
r43 52 74 11.07
r44 52 66 0.0554936
r45 52 74 0.68
r46 52 60 11.07
r47 47 49 20
r48 45 96 82.5
r49 39 49 0.587288
r50 39 41 60
r51 37 47 0.587288
r52 37 90 157.5
r53 27 98 0.0638185
r54 26 63 0.0554936
r55 26 27 0.68
r56 26 32 8.71929
r57 26 30 8.71929
r58 26 27 11.07
r59 24 25 11.2676
r60 20 22 77.5
r61 16 18 112.143
r62 15 25 4.92958
r63 14 16 5.58729
r64 14 15 75
r65 10 25 0.658076
r66 10 12 72.1429
r67 9 24 0.658076
r68 9 32 12.5
r69 6 20 5.58729
r70 6 7 140
r71 5 30 107.5
r72 2 7 5.58729
r73 2 5 77.5
.ends

.subckt PM_FULL_ADDER_NX0 1 3 42 47 55 59
c0 104 0 0.055626f
c1 103 0 0.048504f
c2 97 0 0.048f
c3 96 0 1.02484f
c4 90 0 0.0873825f
c5 87 0 0.094688f
c6 84 0 0.122168f
c7 83 0 0.0738885f
c8 80 0 0.05792f
c9 79 0 0.03801f
c10 78 0 0.1779f
c11 77 0 0.043983f
c12 76 0 0.09275f
c13 75 0 0.03192f
c14 62 0 0.100513f
c15 61 0 0.274208f
c16 60 0 0.0343f
c17 59 0 0.829671f
c18 53 0 0.277389f
c19 52 0 0.186962f
c20 50 0 0.03192f
c21 49 0 0.26f
c22 47 0 0.723992f
c23 44 0 0.0322f
c24 43 0 0.20884f
c25 40 0 0.277389f
c26 28 0 0.050318f
c27 26 0 0.127492f
c28 24 0 0.050318f
c29 22 0 0.03927f
c30 21 0 0.133321f
c31 16 0 0.364372f
c32 14 0 0.03192f
c33 10 0 0.064f
r34 103 104 0.68
r35 97 99 0.0554936
r36 96 103 0.0554936
r37 96 97 3.22
r38 89 104 0.0554936
r39 89 90 0.24
r40 83 93 0.059969
r41 83 87 0.27
r42 80 107 0.0223492
r43 80 84 0.255238
r44 78 107 0.0223492
r45 78 79 0.373333
r46 77 79 0.0446983
r47 76 84 0.08
r48 75 77 0.0933333
r49 62 87 0.0638185
r50 61 90 0.0554936
r51 61 93 0.68
r52 61 62 11.07
r53 57 59 127.5
r54 56 61 15.2893
r55 56 59 132.5
r56 53 60 4.23445
r57 53 55 40
r58 52 61 8.67769
r59 51 60 4.23445
r60 51 52 57.5
r61 49 57 5.58729
r62 49 50 70
r63 45 50 5.58729
r64 45 47 165
r65 43 60 1.10046
r66 43 44 65
r67 40 44 5.58729
r68 40 42 40
r69 26 75 0.0451795
r70 24 76 0.106667
r71 21 24 0.0446983
r72 21 22 0.190476
r73 19 22 0.0446983
r74 19 28 0.106667
r75 14 28 0.044532
r76 14 16 0.24
r77 10 107 0.68
r78 10 99 0.68
r79 10 26 7.805
r80 10 16 3.106
r81 5 10 0.273495
r82 5 6 4.52979
r83 3 6 0.190085
r84 1 10 1.82727
.ends

.subckt PM_FULL_ADDER_SUM 1 3 45 49 88
c0 88 0 0.10545f
c1 83 0 0.043983f
c2 75 0 0.048f
c3 69 0 0.0485628f
c4 68 0 0.366254f
c5 65 0 0.127749f
c6 64 0 0.0791625f
c7 59 0 0.0391125f
c8 58 0 0.221015f
c9 55 0 0.100513f
c10 54 0 0.247306f
c11 53 0 0.03192f
c12 52 0 0.064f
c13 49 0 0.636419f
c14 45 0 0.445812f
c15 28 0 0.050318f
c16 26 0 0.127492f
c17 24 0 0.0507842f
c18 22 0 0.03801f
c19 21 0 0.129073f
c20 16 0 0.364372f
c21 14 0 0.03192f
c22 10 0 0.219575f
r23 69 71 0.0554936
r24 68 75 0.0554936
r25 68 69 1.158
r26 67 83 0.0133333
r27 64 66 0.0527007
r28 64 65 0.0527007
r29 58 67 0.0446983
r30 58 59 0.373333
r31 56 59 0.0446983
r32 56 65 0.266667
r33 55 61 0.0638185
r34 54 64 0.0349998
r35 54 55 0.7
r36 53 83 0.08
r37 52 88 0.68
r38 52 75 0.68
r39 49 81 152.5
r40 45 79 107.5
r41 26 53 0.0451795
r42 24 66 0.106667
r43 21 24 0.0446983
r44 21 22 0.190476
r45 19 22 0.0446983
r46 19 28 0.106667
r47 14 28 0.044532
r48 14 16 0.24
r49 10 83 0.68
r50 10 81 8.93992
r51 10 79 8.93992
r52 10 71 0.68
r53 10 61 11.07
r54 10 26 7.805
r55 10 16 3.106
r56 5 10 0.273495
r57 5 6 4.52979
r58 3 6 0.190085
r59 1 10 1.82727
.ends

